US07875645B2
a) [1-(2,6-Dimethoxy-phenyl)-meth-(E)-ylidene]-(1-isopropyl-2-methyl-propyl)-amine
A mixture of 25.0 g (150 mmol) 2,6-dimethoxybenzaldehyde, 19.1 g (165 mmol) 3-amino-2,4-dimethylpentane and 0.500 g p-toluenesulfonic acid in 100 ml toluene was heated in a Dean-Stark apparatus to reflux for 2 hours. Then the cooled reaction mixture was washed with aqueous NaHCO3 solution, brine dried over Na2SO4, filtered and evaporated. The crude product was filtered through a silica pad with heptane/ethyl acetate 2:1 as eluent: 22.0 g [1-(2,6-dimethoxy-phenyl)-meth-(E)-ylidene]-(1-isopropyl-2-methyl-propyl)-amine as slightly yellow crystals: MS (EI): 264.3 ((M+H)+.), 262.3 ((M-H)+.), 248.3 ((M−CH3)+.), 220.2 ((M−(CH3)2CH)+.), 100%).

reactant | 2,6-dimethoxybenzaldehyde | 150 mmol, 25.0 g | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
reactant | 3-amino-2,4-dimethylpentane | 165 mmol, 19.1 g | NC(C(C)C)C(C)C | C7H17N
reactant | p-toluenesulfonic acid | 0.500 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | [1-(2,6-Dimethoxy-phenyl)-meth-(E)-ylidene]-(1-isopropyl-2-methyl-propyl)-amine | COC1=C(C(=CC=C1)OC)\C=N\C(C(C)C)C(C)C | C16H25NO2
